US06906067B2
N-(3-Amino-4-methyl-phenyl)-acetamide
N-(5-Acetylamino-2-methyl-phenyl)-2,2,2-trifluoro-acetamide (2.93 g, 11.24 mmol) was taken up in methanol (50 mL) and sodium carbonate (5.96 g, 56.20 mmol) was added. The reaction was stirred at room temp for 12 h. The reaction mixture was into water and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The product was utilized without further purification. Yield 1.60 g. 1H NMR (CDCl3, 300 MHz): δ2.16 (s, 3H). 2.31 (s, 3H), 7.18 (d, J=9 Hz, 1H), 7.32 (d, J 9 Hz, 1H), 7.64 (s, 1H), 7.64 (s, 1H).

reactant | N-(5-Acetylamino-2-methyl-phenyl)-2,2,2-trifluoro-acetamide | 11.24 mmol, 2.93 g | C(C)(=O)NC=1C=CC(=C(C1)NC(C(F)(F)F)=O)C | C11H11F3N2O2
reactant | sodium carbonate | 56.20 mmol, 5.96 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | N-(3-Amino-4-methyl-phenyl)-acetamide | NC=1C=C(C=CC1C)NC(C)=O | C9H12N2O
